US04123529
(b) N-Phenacyl-3-(4-phenylpiperazin-1-yl)-propanamide
A solution of N-phenacyl-3-bromopropanamide (10.2 g; 0.038 mole) and N-phenylpiperazine (12.0 g; 0.074 mole) in dry DMF (100 ml) was stirred with anhydrous, finely-powdered sodium carbonate (15.0 g) for 18 hours at room temperature. The temperature was then increased to 80° C. and held for 12 hours to complete the reaction. The DMF was evaporated off under vacuum and the residue diluted with water (100 ml). The mixture was extracted with chloroform (3 × 100 ml). The extracts were shaken with 2 × 100 ml 2N HCl and the organic layer discarded. The aqueous layer was basified with NaOH solution to pH 9 and extracted with 3 × 75 ml CHCl3. The extracts were washed with water and dried. After removal of the solvent the remaining viscous gum triturated with ether to give a buff-coloured solid. After recrystallisation from isopropanol the product weighed 6.0 g and melted at 126° C.

reactant | N-phenacyl-3-bromopropanamide | 0.038 mole, 10.2 g | C(C(=O)C1=CC=CC=C1)NC(CCBr)=O | C11H12BrNO2
reactant | N-phenylpiperazine | 0.074 mole, 12.0 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | sodium carbonate | 15.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N-Phenacyl-3-(4-phenylpiperazin-1-yl)-propanamide | C(C(=O)C1=CC=CC=C1)NC(CCN1CCN(CC1)C1=CC=CC=C1)=O | C21H25N3O2
